US07807673B2
The title compound was synthesized from 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-[4-chloro-3-({2-[methyl(1-methyl-3-pyrrolidinyl)amino]ethyl}oxy)phenyl]-2-pyrimidinamine using 2-thienylacetyl chloride as described in Example 10, Step E to give a brown solid in 55% yield. 1H NMR (400 MHz, DMSO-D6) δ ppm 2.7 (s, 2H) 2.8 (m, 5H) 3.0 (d, J=14.5 Hz, 4H) 3.1 (s, 2H) 3.8 (s, 1H) 3.9 (s, 1H) 3.9 (s, 2H) 4.0 (s, 1H) 6.5 (d, J=5.3 Hz, 1H) 6.9 (s, 2H) 6.9 (s, 3H) 7.1 (m, 2H) 7.2 (m, 3H) 7.4 (m, 2H) 7.5 (d, J=8.6 Hz, 1H) 7.7 (d, J=20.0 Hz, 1H) 7.9 (s, 1H) 8.3 (d, J=5.1 Hz, 1H) 8.8 (d, J=6.4 Hz, 1H) 9.7 (s, 1H) 10.4 (s, 1H). ES-LC/MS m/z 693 [M+H]+.

reactant | 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-[4-chloro-3-({2-[methyl(1-methyl-3-pyrrolidinyl)amino]ethyl}oxy)phenyl]-2-pyrimidinamine | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC(=C(C=C1)Cl)OCCN(C1CN(CC1)C)C | C31H33ClN8O
reactant | 2-thienylacetyl chloride | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
product | N-{3-[3-(2-{[4-Chloro-3-({2-[methyl(1-methyl-3-pyrrolidinyl)amino]ethyl}-oxy)phenyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(2-thienyl)acetamide | 55% yield | ClC1=C(C=C(C=C1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O)OCCN(C2CN(CC2)C)C | C37H37ClN8O2S
